US04971982
12.2 g of benzyl 2-iodopyridine-5-carboxylate and 5.64 g of 4-(1,1-dimethyl-2-propynyloxy)benzonitrile were stirred with 32 mg of copper(I) iodide, 162 mg of triphenylphosphine and 180 mg of palladium(II) chloride in 280 ml of diethylamine at room temperature for 7 days under a nitrogen atmosphere. The mixture was evaporated and the residue was taken up in ethyl acetate and water. The organic phase was separated, dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using ethyl acetate/petroleum ether (1:4) for the elution. There were obtained 9.04 g of benzyl 2-[3-(4-cyanophenoxy)-3-methyl-1-butyn-1-yl]pyridine-5-carboxylate which was used without further purification.

reactant | benzyl 2-iodopyridine-5-carboxylate | 12.2 g | IC1=NC=C(C=C1)C(=O)OCC1=CC=CC=C1 | C13H10INO2
reactant | 4-(1,1-dimethyl-2-propynyloxy)benzonitrile | 5.64 g | CC(C#C)(OC1=CC=C(C#N)C=C1)C | C12H11NO
solvent | diethylamine | 280 ml | C(C)NCC | C4H11N
catalyst | copper(I) iodide | 32 mg | [Cu]I
catalyst | palladium(II) chloride | 180 mg | [Pd](Cl)Cl
catalyst | triphenylphosphine | 162 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | benzyl 2-[3-(4-cyanophenoxy)-3-methyl-1-butyn-1-yl]pyridine-5-carboxylate | 9.04 g | C(#N)C1=CC=C(OC(C#CC2=NC=C(C=C2)C(=O)OCC2=CC=CC=C2)(C)C)C=C1 | C25H20N2O3
